US08242175B2
4-((3R,5S)-3,5-dimethyl-piperazin-1-yl)-benzonitrile hydrochloride (1 g, 3.97 mmol) was dissolved in DCM (25 ml) and TEA (1.1 ml, 7.94 mmol). NaBH3CN (374 mg, 5.96 mmol) and CH2O (37% water solution, 0.446 ml, 5.96 mmol) were added to the resulting solution. The slurry was stirred overnight at room temperature, then further CH2O (0.297 ml, 3.97 mmol) and NaBH3CN (249 mg, 3.97 mmol) were added. The slurry was stirred at room temperature for 4 h, then brought to basic conditions with 5% NaHCO3 and extracted twice with DCM. The collected organic phases were dried over Na2SO4 and evaporated in vacuo. The resulting oil was taken up with DCM and treated with HCl/Et2O. The precipitate was filtered and washed with di-isopropylether to give 1 g of 4-((3R,5S)-3,4,5-trimethyl-piperazin-1-yl)-benzonitrile hydrochloride.

reactant | 4-((3R,5S)-3,5-dimethyl-piperazin-1-yl)-benzonitrile hydrochloride | 3.97 mmol, 1 g | Cl.C[C@@H]1CN(C[C@@H](N1)C)C1=CC=C(C#N)C=C1
reactant | NaBH3CN | 5.96 mmol, 374 mg | [BH3-]C#N.[Na+]
reactant | CH2O | 5.96 mmol, 0.446 ml | C=O | CH2O
reactant | CH2O | 3.97 mmol, 0.297 ml | C=O | CH2O
reactant | NaBH3CN | 3.97 mmol, 249 mg | [BH3-]C#N.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
product | 4-((3R,5S)-3,4,5-trimethyl-piperazin-1-yl)-benzonitrile hydrochloride | 1 g | Cl.C[C@@H]1CN(C[C@@H](N1C)C)C1=CC=C(C#N)C=C1 | InChI=1S/C14H19N3.ClH/c1-11-9-17(10-12(2)16(11)3)14-6-4-13(8-15)5-7-14;/h4-7,11-12H,9-10H2,1-3H3;1H/t11-,12+;
